US04550105
To a solution of 288 mg of cis-3-amino-2-oxoazetidine-4-carboxylic acid methyl ester in 2 ml of N,N-dimethylacetamide, which is stirred under ice-cooling beforehand, is added 534 mg of mandelic-carbonic anhydride, followed by stirring at room temperature for 30 minutes. The mixture is stirred beforehand under ice-cooling, to which is added dropwise 1.05 ml of chloroacetyl chloride, followed by stirring at room temperature for 3 hours. The reaction mixture is shaken with 100 ml of ethyl acetate and 20 ml of 1N-HCl, then the organic layer is separated. The organic layer is washed with a saturated aqueous solution of sodium chloride (30 ml×3), 20 ml of 1N-NaHCO3 aqueous solution and a saturated aqueous solution of sodium chloride (30 ml×3), successively, dried, and the solvent is evaporated under reduced pressure. The residue is purified by column-chromatography on silica-gel to afford cis-3-(2-chloroacetyloxy-2-phenylacetamido)-2-oxoazetidine-4-carboxylic acid methyl ester.

reactant | cis-3-amino-2-oxoazetidine-4-carboxylic acid methyl ester | 288 mg | COC(=O)[C@@H]1[C@@H](C(N1)=O)N | C5H8N2O3
reactant | mandelic-carbonic anhydride | 534 mg | C(O)(=O)OC(C(O)C1=CC=CC=C1)=O | C9H8O5
reactant | chloroacetyl chloride | 1.05 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | HCl | Cl | ClH
solvent | N,N-dimethylacetamide | 2 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | cis-3-(2-chloroacetyloxy-2-phenylacetamido)-2-oxoazetidine-4-carboxylic acid methyl ester | COC(=O)[C@@H]1[C@@H](C(N1)=O)NC(C(C1=CC=CC=C1)OC(CCl)=O)=O | C15H15ClN2O6
